* /home/sumanto/desktop/verilog/esim/boothmultiplier/boothmultiplier.cir

v1  net-_u4-pad1_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  net-_u4-pad2_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 1000)
* u6  out plot_v1
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  net-_u3-pad9_ out dac_bridge_1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ counter4bit
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ counter4bit
* u3  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u3-pad9_ ? ? ? ? ? ? ? jboothmultiplier
a1 [net-_u4-pad1_ net-_u4-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a2 [net-_u3-pad9_ ] [out ] u5
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a4 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
a5 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [net-_u3-pad9_ ? ? ? ? ? ? ? ] u3
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             counter4bit, NgSpice Name: counter4bit
.model u1 counter4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter4bit, NgSpice Name: counter4bit
.model u2 counter4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             jboothmultiplier, NgSpice Name: jboothmultiplier
.model u3 jboothmultiplier(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-00 15e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
