* /home/sumanto/desktop/verilog/esim/calculator/calculator.cir

* u2  net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ? ? ? ? ? ? ? ? ? ? ? calculator
* u1  net-_u1-pad1_ net-_u1-pad2_ ? ? net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ counter16bit
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  net-_u3-pad1_ gnd pulse(0 5 0.1n 0.1n 0.1n 1 2)
v2  net-_u3-pad2_ gnd pulse(0 5 0.1n 0.1n 0.1n 1 1000)
a1 [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] [? ? ? ? ] [? ? ? ? ? ? ? ] u2
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [? ? net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] u1
a3 [net-_u3-pad1_ net-_u3-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
* Schematic Name:                             calculator, NgSpice Name: calculator
.model u2 calculator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter16bit, NgSpice Name: counter16bit
.model u1 counter16bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-00 600e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
