* /home/sumanto/desktop/verilog/esim/divideby45/divideby45.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ clk_div_45
* u3  net-_u1-pad3_ clkdivideby4_5 dac_bridge_1
* u2  clk en net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 1m 2m)
v2  en gnd pulse(0 5 1.5m 0.1n 0.1n 999m 1000m)
* u4  clkdivideby4_5 plot_v1
* u5  clk plot_v1
* u6  en plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
a2 [net-_u1-pad3_ ] [clkdivideby4_5 ] u3
a3 [clk en ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
* Schematic Name:                             clk_div_45, NgSpice Name: clk_div_45
.model u1 clk_div_45(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-06 20e-03 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clkdivideby4_5) v(clk)+6 v(en)+12
.endc
.end
