* /home/sumanto/desktop/verilog/esim/dual_clk_ram/dual_clk_ram.cir

* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ ? ? ? ? ? ? ? ? ram_dual
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ counter8bit
* u2  net-_u2-pad1_ net-_u1-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ counter6bit
* u3  net-_u3-pad1_ net-_u1-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ counter6bit
v2  net-_u4-pad2_ gnd pulse(0 5 0.1u 0.1u 0.1u 1m 2m)
v1  net-_u4-pad1_ gnd pulse(0 5 0.1u 0.1u 0.1u 1m 1000m)
v3  net-_u4-pad3_ gnd pulse(0 5 0.1u 0.1u 0.1u 2m 4m)
v4  net-_u4-pad4_ gnd pulse(0 5 0.1u 0.1u 0.1u 4m 8m)
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u1-pad2_ net-_u1-pad1_ net-_u2-pad1_ net-_u3-pad1_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ adc_bridge_7
v5  net-_u4-pad5_ gnd pulse(5 0 0.1u 0.1u 0.1u 8m 1000m)
v6  net-_u4-pad6_ gnd pulse(0 5 0.1u 0.1u 0.1u 2m 4m)
v7  net-_u4-pad7_ gnd pulse(0 5 0.1u 0.1u 0.1u 2m 4m)
a1 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [net-_u4-pad12_ ] [net-_u4-pad13_ ] [net-_u4-pad14_ ] [? ? ? ? ? ? ? ? ] u5
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a3 [net-_u2-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] u2
a4 [net-_u3-pad1_ ] [net-_u1-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u3
a5 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ ] [net-_u1-pad2_ net-_u1-pad1_ net-_u2-pad1_ net-_u3-pad1_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ ] u4
* Schematic Name:                             ram_dual, NgSpice Name: ram_dual
.model u5 ram_dual(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u1 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter6bit, NgSpice Name: counter6bit
.model u2 counter6bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter6bit, NgSpice Name: counter6bit
.model u3 counter6bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 2000e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
