* /home/sumanto/esim-workspace/fpgamul/fpgamul.cir

* u4  clk reset net-_u3-pad1_ net-_u3-pad2_ adc_bridge_2
v2  reset gnd pulse(0 5 1n 0.1n 0.1n 1m 3000m)
v1  clk gnd pulse(5 0 0.1n 0.1n 0.1n 0.5m 1m)
* u1  clk plot_v1
* u2  reset plot_v1
* u11  passed plot_v1
* u12  failed plot_v1
* u6  cyc gnd gnd gnd gnd gnd gnd gnd net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ adc_bridge_8
* u9  gnd gnd gnd gnd gnd gnd gnd gnd net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ net-_u3-pad33_ net-_u3-pad34_ adc_bridge_8
* u8  gnd gnd gnd gnd gnd gnd gnd gnd net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ adc_bridge_8
* u7  gnd gnd gnd gnd gnd gnd gnd gnd net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ adc_bridge_8
* u10  net-_u10-pad1_ net-_u10-pad2_ passed failed dac_bridge_2
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ net-_u3-pad33_ net-_u3-pad34_ net-_u10-pad1_ net-_u10-pad2_ top1
v3  cyc gnd pulse(0 5 50m 0.1n 0.1n 1000m 3000m)
* u5  cyc plot_v1
a1 [clk reset ] [net-_u3-pad1_ net-_u3-pad2_ ] u4
a2 [cyc gnd gnd gnd gnd gnd gnd gnd ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ ] u6
a3 [gnd gnd gnd gnd gnd gnd gnd gnd ] [net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ net-_u3-pad33_ net-_u3-pad34_ ] u9
a4 [gnd gnd gnd gnd gnd gnd gnd gnd ] [net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ ] u8
a5 [gnd gnd gnd gnd gnd gnd gnd gnd ] [net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ ] u7
a6 [net-_u10-pad1_ net-_u10-pad2_ ] [passed failed ] u10
a7 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ net-_u3-pad33_ net-_u3-pad34_ ] [net-_u10-pad1_ ] [net-_u10-pad2_ ] u3
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             top1, NgSpice Name: top1
.model u3 top(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 Sumanto=1 ) 
.tran 0.1e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(reset)
plot v(passed)
plot v(failed)
plot v(cyc)
.endc
.end
